US05587388
Preparation of N-morpholinecarbonyl-L-alanine
4 g(50 mmol) of L-alanine and 2 g(50 mmol) of NaOH were added to 30 ml of distilled water. The mixture was cooled to 0° C. and then stirred vigorously. To the mixture was added slowly a solution of 7.1 g(50 mmol) of morpholinecarbonyl-chloride in 30 ml of tetrahydrofuran, while adjusting the whole mixture to pH 8.5-pH 9.5 with the addition of 0.05N NaOH. After the reaction was completed, the reaction mixture was acidified to pH 2 with 6N HCl. The reaction mixture was extracted with a mixed solvent of ethyl acetate and THF(1:1) (30 ml×3) and the organic layer was concentrated under a reduced pressure to give 4 g of the title compound(yield: 40%).

reactant | L-alanine | 50 mmol, 4 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | NaOH | 50 mmol, 2 g | [OH-].[Na+]
reactant | morpholinecarbonyl-chloride | 50 mmol, 7.1 g | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | NaOH | 0.05N | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | N-morpholinecarbonyl-L-alanine | 4 g, yield: 40% | N1(CCOCC1)C(=O)N[C@@H](C)C(=O)O | C8H14N2O4
